US07968570B2
A mixture of 1-methyl-4-prop-2-ynyl-piperazine (0.061 mL, 0.4 mmol), 5-bromo-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one (0.11 g, 0.3 mmol), PdCl2(PPh3)2 (0.011 g, 0.015 mmol), and CuI (0.0028 g, 0.015 mmol) in diisopropylamine (4 mL) was stirred at 100° C. for 2 h. Workup and silica gel column chromatography using 10:1 CHCl3-MeOH afforded 7-chloro-2-(4-chloro-benzyl)-5-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl)-2,3-dihydro-isoindol-1-one (0.090 g, 70%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.31 (s, 3H), 2.32-2.74 (m, 8H), 3.54 (s, 2H), 4.18 (s, 2H), 4.74 (s, 2H), 7.22-7.36 (m, 5H), 7.44 (s, 1H).

reactant | 1-methyl-4-prop-2-ynyl-piperazine | 0.4 mmol, 0.061 mL | CN1CCN(CC1)CC#C | C8H14N2
reactant | 5-bromo-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.3 mmol, 0.11 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)Cl | C15H10BrCl2NO
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | diisopropylamine | 4 mL | C(C)(C)NC(C)C | C6H15N
catalyst | PdCl2(PPh3)2 | 0.015 mmol, 0.011 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.015 mmol, 0.0028 g | [Cu]I
product | 7-chloro-2-(4-chloro-benzyl)-5-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl)-2,3-dihydro-isoindol-1-one | 0.090 g, 70% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)Cl)C#CCN1CCN(CC1)C | C23H23Cl2N3O
